US07820673B2
94a) 2-(2-(1-benzyl-4-piperidinyl)ethyl)-5,7-dimethyl-1,2-dihydro-3H-imidazo[1,5-c]imidazol-3-one
To a solution of 2-(1-benzyl-4-piperidinyl)ethanamine (2.2 g), 2,5-dimethylimidazole-4-carbaldehyde (1.2 g) and acetic acid (0.3 ml) in 1,2-dichloroethane (25 ml) was added sodium triacetoxyborohydride (8.1 g) under ice-cooling. The reaction mixture was mixed at room temperature for 2 days, and then the reaction solution was washed with an aqueous potassium carbonate solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was dissolved in THF (50 ml). To the reaction solution were added N,N′-carbonyldiimidazole (1.6 g) and DBU (1.6 ml), and mixed at room temperature for 15 hours. The solvent was distilled off under reduced pressure, and the residue was dissolved in chloroform. The reaction mixture was then washed with saturated brine, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was purified with basic silica gel column (ethyl acetate/methanol=10/1). The product was recrystallized from ethyl acetate-hexane to obtain the title compound as colorless powder (1.3 g, 32%).

reactant | 2-(1-benzyl-4-piperidinyl)ethanamine | 2.2 g | C(C1=CC=CC=C1)N1CCC(CC1)CCN | C14H22N2
reactant | 2,5-dimethylimidazole-4-carbaldehyde | 1.2 g | CC=1NC(=C(N1)C=O)C | C6H8N2O
reactant | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 8.1 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 25 ml | ClCCCl | C2H4Cl2
product | 2-(2-(1-benzyl-4-piperidinyl)ethyl)-5,7-dimethyl-1,2-dihydro-3H-imidazo[1,5-c]imidazol-3-one | 1.3 g, 32% | C(C1=CC=CC=C1)N1CCC(CC1)CCN1C(N2C(C1)=C(N=C2C)C)=O | C21H28N4O
